US06610688B2
Synthesis of 4-(3-Chloro-4-fluoro-phenylamino)-7-methyl-5-[3-methyl-5-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-yl-methylene]-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one (Formula 36)
A mixture of 4-(3-chloro-4-fluoro-phenylamino)-7-methyl-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (80 mg, 0.27 mmol), 3-methyl-5-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde (1.2 equiv.) and piperidine (1 drop) in ethanol (2 mL) was stirred at 90° C. for 2 hours. The reaction was diluted with water and the precipitate was collected by vacuum filtration, washed with water, ethyl acetate and hexane and dried to give 120.5 mg (72%) of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 13.42 (br s, 1H, NH), 9.32 (br s, 1H), 8.40 (s, 1H), 7.71 (m, 1H), 7.35-7.41 (m, 3H), 6.60 (s, 1H), 3.69 (m, 4H, 2×CH2), 3.30 (s, 3H, CH3), 2.35 (m, 4H, 2×CH2), 2.21 (s, 3H, CH3),2.20 (s, 3H, CH3). MS 510 [M+1].

reactant | 4-(3-chloro-4-fluoro-phenylamino)-7-methyl-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.27 mmol, 80 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)N(C(C2)=O)C | C13H10ClFN4O
reactant | 3-methyl-5-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | 1.2 equiv. | CC1=C(NC(=C1)C(=O)N1CCN(CC1)C)C=O | C12H17N3O2
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(3-Chloro-4-fluoro-phenylamino)-7-methyl-5-[3-methyl-5-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-yl-methylene]-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one | 120.5 mg, 72% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)N(C(C2=CC=2NC(=CC2C)C(=O)N2CCN(CC2)C)=O)C | C25H25ClFN7O2
